US04001249
Under nitrogen atmosphere, 11.4 mg of LiAlH4, 0.15 ml of tetrahydrofran and then 85 μl of t-butylalcohol were placed in a reaction vessel. After standing the resulting mixture for 15 min. at room temperature, a tetrahydrofran solution of N-carbomethoxy-8-azabicyclo(3,2,1)octan-3-one prepared by the method as described in Referencial Example 3 (0.1 ml/2 mg) was added to the mixture and then continued stirring for 17.5 hrs.. To the reaction mixture, a moisture contained ethyl ether was added to stop the reaction and then the reaction mixture was subjected to extraction in several times with use of ethyl acetate. The combined extract was dried with use of Na2SO4 and concentrated to obtain N-carbomethoxy-8-azabicyclo(3,2,1)octan-3-ol, in crystal form.

reactant | LiAlH4 | 11.4 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | t-butylalcohol | 85 μl | C(C)(C)(C)O | C4H10O
reactant | N-carbomethoxy-8-azabicyclo(3,2,1)octan-3-one | C(=O)(OC)N1C2CC(CC1CC2)=O | C9H13NO3
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-carbomethoxy-8-azabicyclo(3,2,1)octan-3-ol | C(=O)(OC)N1C2CC(CC1CC2)O | C9H15NO3
